US04980331
In this Example, a hydrogenation catalyst was prepared by first combining an ethylalumoxane with nickel-2-ethylhexanoate in cyclohexane at a temperature of 25° C. and then adding triethyl aluminum. In preparing the catalyst in this Example, the amount of alumoxane combined with nickel-2-ethylhexanoate was sufficient to provide an alumoxane-nickel-2-ethylhexanoate mixture having an Al:Ni atomic ratio of 3:1. The contacting of the nickel-2-ethylhexanoate and the ethylalumoxane was continued for 30 minutes before the triethyl aluminum was added. When the triethyl aluminum was added, a sufficient amount was added to provide an Al (from triethyl aluminum):Ni alomic ratio of 1:1. Contacting was continued for an additional 30 minutes after the triethyl aluminum was added. For convenience, this catalyst will be referred to hereinafter as catalyst 2. This catalyst was used shortly after preparation to hydrogenate a block copolymer as summarized in Example 6.

reactant | ethylalumoxane | C(C)[Al]1OCCCC1
reactant | nickel 2-ethylhexanoate | [Ni].C(C)C(C(=O)[O-])CCCC
reactant | triethyl aluminum | C(C)[Al](CC)CC
reactant | alumoxane | [AlH]1OCCCC1
solvent | cyclohexane | C1CCCCC1 | C6H12
product | alumoxane nickel 2-ethylhexanoate | [AlH]1OCCCC1.[Ni].C(C)C(C(=O)[O-])CCCC | InChI=1S/C8H16O2.C4H8O.Al.Ni.H/c1-3-5-6-7(4-2)8(9)10;1-2-3-4-5;;;/h7H,3-6H2,1-2H3,(H,9,10);1-4H2;;;/q;-1;+1;;/p-1
